US05436224
Production of N-methylene-1-methyl-1-(3chlorophenyl)ethylamine (Compound No. 3-5)
1-Methyl-1-(3-chlorophenyl)ethylamine (5.0 g) was added slowly to formalin (aqueous 37% HCHO solution) (3.5 g) at room temperature. This was allowed to react as it was for 1 hour. A saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, which was then extracted with ether. After it was washed with saturated saline, the organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain the captioned compound (5.6 g) as syrup.

reactant | 1-Methyl-1-(3-chlorophenyl)ethylamine | 5.0 g | CC(C)(C1=CC(=CC=C1)Cl)N | C9H12ClN
reactant | formalin | 3.5 g | C=O | CH2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-methylene-1-methyl-1-(3chlorophenyl)ethylamine | 5.6 g | C=NC(C)(C1=CC(=CC=C1)Cl)C | C10H12ClN
